* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00044015401412732713
Fd1_1 0 s1 V1 0.02200770070636636
Gr1_1_1 0 s1 x1_a1 0 -2516978423617.2993
Gr2_1_1 0 s1 x2_a1 0 2528294217073.8716
Gr3_1_1 0 s1 x3_a1 0 -731349271982.2504
Gr4_1_1 0 s1 x4_a1 0 723691192978.2219
Gr5_1_1 0 s1 x5_a1 0 -223489750612.56317
Gr6_1_1 0 s1 x6_a1 0 211046802591.26102
Gr7_1_1 0 s1 x7_a1 0 -106250808014.61725
Gr8_1_1 0 s1 x8_a1 0 124124479286.58028
Gr9_1_1 0 s1 x9_a1 0 -1182023330201.1802
Gr10_1_1 0 s1 x10_a1 0 1737360558222.6655
Gr11_1_1 0 s1 x11_a1 0 -1646023188453.7166
Gr12_re_1_1 0 s1 x12_re_a1 0 -113209253290.10277
Gr12_im_1_1 0 s1 x12_im_a1 0 185725484484.3108
Gr13_re_1_1 0 s1 x13_re_a1 0 -13967033761.225285
Gr13_im_1_1 0 s1 x13_im_a1 0 18551902754.475304
Gr14_re_1_1 0 s1 x14_re_a1 0 -915520757.1574945
Gr14_im_1_1 0 s1 x14_im_a1 0 532637462.49089986
Gr15_re_1_1 0 s1 x15_re_a1 0 965455440.232671
Gr15_im_1_1 0 s1 x15_im_a1 0 251341895.83075216
Gr16_re_1_1 0 s1 x16_re_a1 0 14438894989.359737
Gr16_im_1_1 0 s1 x16_im_a1 0 9892681069.28347
Gr17_re_1_1 0 s1 x17_re_a1 0 6801286.851800263
Gr17_im_1_1 0 s1 x17_im_a1 0 1960331.7573585655
Gr18_re_1_1 0 s1 x18_re_a1 0 49929065957.088974
Gr18_im_1_1 0 s1 x18_im_a1 0 58859299353.2948
Gr19_re_1_1 0 s1 x19_re_a1 0 155781389454.47955
Gr19_im_1_1 0 s1 x19_im_a1 0 127442414906.47452
Gr20_re_1_1 0 s1 x20_re_a1 0 415066469869.89545
Gr20_im_1_1 0 s1 x20_im_a1 0 272765907037.1067
Gr21_1_1 0 s1 x21_a1 0 100376854480.50565
Gr22_1_1 0 s1 x22_a1 0 -62603182563.41899
Gr23_1_1 0 s1 x23_a1 0 10225194244.713758
Gr24_1_1 0 s1 x24_a1 0 -2913023270.6361756
Gr25_1_1 0 s1 x25_a1 0 -10082942431.37908
Gr26_1_1 0 s1 x26_a1 0 6913823638.954467
Gd1_2 0 s1 p2 0 0.0016050567127751845
Fd1_2 0 s1 V2 0.08025283563875923
Gr1_1_2 0 s1 x1_a2 0 -4080324345582.281
Gr2_1_2 0 s1 x2_a2 0 3978339897457.738
Gr3_1_2 0 s1 x3_a2 0 4199891336144.502
Gr4_1_2 0 s1 x4_a2 0 -4603030149120.156
Gr5_1_2 0 s1 x5_a2 0 7635323349514.77
Gr6_1_2 0 s1 x6_a2 0 -8360280273139.496
Gr7_1_2 0 s1 x7_a2 0 9043143266367.197
Gr8_1_2 0 s1 x8_a2 0 -9732922931955.572
Gr9_1_2 0 s1 x9_a2 0 23313178668167.613
Gr10_1_2 0 s1 x10_a2 0 -26372912102039.992
Gr11_1_2 0 s1 x11_a2 0 4156024922634.841
Gr12_re_1_2 0 s1 x12_re_a2 0 -1801453988133.9614
Gr12_im_1_2 0 s1 x12_im_a2 0 77733098178.42079
Gr13_re_1_2 0 s1 x13_re_a2 0 -242343188100.5645
Gr13_im_1_2 0 s1 x13_im_a2 0 63218729408.720795
Gr14_re_1_2 0 s1 x14_re_a2 0 -13709500811.883675
Gr14_im_1_2 0 s1 x14_im_a2 0 1946121328.5101945
Gr15_re_1_2 0 s1 x15_re_a2 0 10841381889.333515
Gr15_im_1_2 0 s1 x15_im_a2 0 6325796816.329643
Gr16_re_1_2 0 s1 x16_re_a2 0 62445780524.76684
Gr16_im_1_2 0 s1 x16_im_a2 0 166152146816.25974
Gr17_re_1_2 0 s1 x17_re_a2 0 16968928.449435513
Gr17_im_1_2 0 s1 x17_im_a2 0 26680661.56036475
Gr18_re_1_2 0 s1 x18_re_a2 0 103891757071.46686
Gr18_im_1_2 0 s1 x18_im_a2 0 669209789111.7181
Gr19_re_1_2 0 s1 x19_re_a2 0 642964478739.2339
Gr19_im_1_2 0 s1 x19_im_a2 0 1115401296558.095
Gr20_re_1_2 0 s1 x20_re_a2 0 1563189263942.34
Gr20_im_1_2 0 s1 x20_im_a2 0 1152022755700.5002
Gr21_1_2 0 s1 x21_a2 0 99906161270.21547
Gr22_1_2 0 s1 x22_a2 0 8627891861.859943
Gr23_1_2 0 s1 x23_a2 0 -51185829938.33583
Gr24_1_2 0 s1 x24_a2 0 22096827227.97333
Gr25_1_2 0 s1 x25_a2 0 64605305252.072815
Gr26_1_2 0 s1 x26_a2 0 -50773451674.010475
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 5.695705874986152e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.795362173915754e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.7630648935026104e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.8450112798436934e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 4.409290321011641e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 4.796257123139411e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 9.980107987571243e-12
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.1424180336552212e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.5253822146420057e-11
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 2.8385895525409923e-11
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 4.9840539599015824e-11
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 8.963189148022957e-11
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 12993289256.97821
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -12993289256.97821
Rp12_im_im_a1 0 x12_im_a1 8.963189148022957e-11
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 2.183151191126728e-10
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 14793254633.191442
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -14793254633.191442
Rp13_im_im_a1 0 x13_im_a1 2.183151191126728e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 8.899494571387737e-10
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 14552745417.79988
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -14552745417.79988
Rp14_im_im_a1 0 x14_im_a1 8.899494571387737e-10
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 9.123957329637664e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 14228889322.053318
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -14228889322.053318
Rp15_im_im_a1 0 x15_im_a1 9.123957329637664e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 2.702090766372589e-10
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 13080307050.661032
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -13080307050.661032
Rp16_im_im_a1 0 x16_im_a1 2.702090766372589e-10
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 2.060706401145975e-06
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 12578435248.16253
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -12578435248.16253
Rp17_im_im_a1 0 x17_im_a1 2.060706401145975e-06
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.7231690383304693e-10
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 10339785337.201042
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -10339785337.201042
Rp18_im_im_a1 0 x18_im_a1 1.7231690383304693e-10
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 1.4227282109942446e-10
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 6955316658.624753
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -6955316658.624753
Rp19_im_im_a1 0 x19_im_a1 1.4227282109942446e-10
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 1.3607098335974292e-10
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 2348460114.132408
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -2348460114.132408
Rp20_im_im_a1 0 x20_im_a1 1.3607098335974292e-10
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 3.080797568520822e-10
Cx22_a1 x22_a1 0 1.0
Gx22_a1 0 x22_a1 p1 0 0.07071067811865475
Fx22_a1 0 x22_a1 V1 3.5355339059327378
Rp22_a1 0 x22_a1 3.721409967937072e-10
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 9.183269822584925e-10
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 3.4370262251437033e-09
Cx25_a1 x25_a1 0 1.0
Gx25_a1 0 x25_a1 p1 0 0.07071067811865475
Fx25_a1 0 x25_a1 V1 3.5355339059327378
Rp25_a1 0 x25_a1 1.4623651236464373e-09
Cx26_a1 x26_a1 0 1.0
Gx26_a1 0 x26_a1 p1 0 0.07071067811865475
Fx26_a1 0 x26_a1 V1 3.5355339059327378
Rp26_a1 0 x26_a1 2.596692010055798e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0016050567127751845
Fd2_1 0 s2 V1 0.08025283563875923
Gr1_2_1 0 s2 x1_a1 0 -4080324345582.3726
Gr2_2_1 0 s2 x2_a1 0 3978339897457.832
Gr3_2_1 0 s2 x3_a1 0 4199891336144.3003
Gr4_2_1 0 s2 x4_a1 0 -4603030149119.936
Gr5_2_1 0 s2 x5_a1 0 7635323349514.372
Gr6_2_1 0 s2 x6_a1 0 -8360280273139.044
Gr7_2_1 0 s2 x7_a1 0 9043143266366.473
Gr8_2_1 0 s2 x8_a1 0 -9732922931954.719
Gr9_2_1 0 s2 x9_a1 0 23313178668163.176
Gr10_2_1 0 s2 x10_a1 0 -26372912102034.043
Gr11_2_1 0 s2 x11_a1 0 4156024922630.7036
Gr12_re_2_1 0 s2 x12_re_a1 0 -1801453988133.9768
Gr12_im_2_1 0 s2 x12_im_a1 0 77733098178.82643
Gr13_re_2_1 0 s2 x13_re_a1 0 -242343188100.59537
Gr13_im_2_1 0 s2 x13_im_a1 0 63218729408.784966
Gr14_re_2_1 0 s2 x14_re_a1 0 -13709500811.889732
Gr14_im_2_1 0 s2 x14_im_a1 0 1946121328.5099514
Gr15_re_2_1 0 s2 x15_re_a1 0 10841381889.337973
Gr15_im_2_1 0 s2 x15_im_a1 0 6325796816.333604
Gr16_re_2_1 0 s2 x16_re_a1 0 62445780524.84668
Gr16_im_2_1 0 s2 x16_im_a1 0 166152146816.28812
Gr17_re_2_1 0 s2 x17_re_a1 0 16968928.449645296
Gr17_im_2_1 0 s2 x17_im_a1 0 26680661.560401432
Gr18_re_2_1 0 s2 x18_re_a1 0 103891757071.7307
Gr18_im_2_1 0 s2 x18_im_a1 0 669209789111.565
Gr19_re_2_1 0 s2 x19_re_a1 0 642964478738.757
Gr19_im_2_1 0 s2 x19_im_a1 0 1115401296557.9563
Gr20_re_2_1 0 s2 x20_re_a1 0 1563189263943.2363
Gr20_im_2_1 0 s2 x20_im_a1 0 1152022755703.5693
Gr21_2_1 0 s2 x21_a1 0 99906161273.55507
Gr22_2_1 0 s2 x22_a1 0 8627891859.245094
Gr23_2_1 0 s2 x23_a1 0 -51185829937.58062
Gr24_2_1 0 s2 x24_a1 0 22096827227.71671
Gr25_2_1 0 s2 x25_a1 0 64605305251.24675
Gr26_2_1 0 s2 x26_a1 0 -50773451673.40959
Gd2_2 0 s2 p2 0 0.0004554002393900843
Fd2_2 0 s2 V2 0.02277001196950422
Gr1_2_2 0 s2 x1_a2 0 -2553304625624.967
Gr2_2_2 0 s2 x2_a2 0 2563596577026.9053
Gr3_2_2 0 s2 x3_a2 0 -688767220823.5707
Gr4_2_2 0 s2 x4_a2 0 677142745561.7682
Gr5_2_2 0 s2 x5_a2 0 -147637397324.33054
Gr6_2_2 0 s2 x6_a2 0 128008695534.87903
Gr7_2_2 0 s2 x7_a2 0 -15915301216.967442
Gr8_2_2 0 s2 x8_a2 0 26612301428.26566
Gr9_2_2 0 s2 x9_a2 0 -936064462907.7705
Gr10_2_2 0 s2 x10_a2 0 1453512084339.5183
Gr11_2_2 0 s2 x11_a2 0 -1579293136866.5532
Gr12_re_2_2 0 s2 x12_re_a2 0 -128197869728.88538
Gr12_im_2_2 0 s2 x12_im_a2 0 184880182171.98337
Gr13_re_2_2 0 s2 x13_re_a2 0 -16094234602.294168
Gr13_im_2_2 0 s2 x13_im_a2 0 19256218623.350773
Gr14_re_2_2 0 s2 x14_re_a2 0 -1057809681.9543641
Gr14_im_2_2 0 s2 x14_im_a2 0 561423902.8278404
Gr15_re_2_2 0 s2 x15_re_a2 0 1086403426.8742297
Gr15_im_2_2 0 s2 x15_im_a2 0 310894143.6200593
Gr16_re_2_2 0 s2 x16_re_a2 0 15201438448.208918
Gr16_im_2_2 0 s2 x16_im_a2 0 11264806720.024523
Gr17_re_2_2 0 s2 x17_re_a2 0 7156418.196920607
Gr17_im_2_2 0 s2 x17_im_a2 0 2233607.372286552
Gr18_re_2_2 0 s2 x18_re_a2 0 51153697830.763596
Gr18_im_2_2 0 s2 x18_im_a2 0 63560996401.722755
Gr19_re_2_2 0 s2 x19_re_a2 0 159503166176.85956
Gr19_im_2_2 0 s2 x19_im_a2 0 134069953922.36288
Gr20_re_2_2 0 s2 x20_re_a2 0 421392644226.2165
Gr20_im_2_2 0 s2 x20_im_a2 0 277466387743.01874
Gr21_2_2 0 s2 x21_a2 0 99180243232.87239
Gr22_2_2 0 s2 x22_a2 0 -61188120916.19824
Gr23_2_2 0 s2 x23_a2 0 9526592348.44415
Gr24_2_2 0 s2 x24_a2 0 -2646873401.982881
Gr25_2_2 0 s2 x25_a2 0 -9265193468.442823
Gr26_2_2 0 s2 x26_a2 0 6296076038.598165
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 5.695705874986152e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.795362173915754e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.7630648935026104e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.8450112798436934e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 4.409290321011641e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 4.796257123139411e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 9.980107987571243e-12
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.1424180336552212e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.5253822146420057e-11
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 2.8385895525409923e-11
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 4.9840539599015824e-11
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 8.963189148022957e-11
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 12993289256.97821
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -12993289256.97821
Rp12_im_im_a2 0 x12_im_a2 8.963189148022957e-11
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 2.183151191126728e-10
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 14793254633.191442
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -14793254633.191442
Rp13_im_im_a2 0 x13_im_a2 2.183151191126728e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 8.899494571387737e-10
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 14552745417.79988
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -14552745417.79988
Rp14_im_im_a2 0 x14_im_a2 8.899494571387737e-10
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 9.123957329637664e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 14228889322.053318
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -14228889322.053318
Rp15_im_im_a2 0 x15_im_a2 9.123957329637664e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 2.702090766372589e-10
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 13080307050.661032
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -13080307050.661032
Rp16_im_im_a2 0 x16_im_a2 2.702090766372589e-10
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 2.060706401145975e-06
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 12578435248.16253
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -12578435248.16253
Rp17_im_im_a2 0 x17_im_a2 2.060706401145975e-06
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.7231690383304693e-10
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 10339785337.201042
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -10339785337.201042
Rp18_im_im_a2 0 x18_im_a2 1.7231690383304693e-10
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 1.4227282109942446e-10
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 6955316658.624753
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -6955316658.624753
Rp19_im_im_a2 0 x19_im_a2 1.4227282109942446e-10
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 1.3607098335974292e-10
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 2348460114.132408
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -2348460114.132408
Rp20_im_im_a2 0 x20_im_a2 1.3607098335974292e-10
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 3.080797568520822e-10
Cx22_a2 x22_a2 0 1.0
Gx22_a2 0 x22_a2 p2 0 0.07071067811865475
Fx22_a2 0 x22_a2 V2 3.5355339059327378
Rp22_a2 0 x22_a2 3.721409967937072e-10
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 9.183269822584925e-10
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 3.4370262251437033e-09
Cx25_a2 x25_a2 0 1.0
Gx25_a2 0 x25_a2 p2 0 0.07071067811865475
Fx25_a2 0 x25_a2 V2 3.5355339059327378
Rp25_a2 0 x25_a2 1.4623651236464373e-09
Cx26_a2 x26_a2 0 1.0
Gx26_a2 0 x26_a2 p2 0 0.07071067811865475
Fx26_a2 0 x26_a2 V2 3.5355339059327378
Rp26_a2 0 x26_a2 2.596692010055798e-09
.ENDS s_equivalent
